US05455273
1) trans-N-(4-chlorobenzoyl)-4-phenylcyclohexylamine
from trans-4-phenylcyclohexylamine and 4-chlorobenzoylchloride. Melting point: 232°-234° C.

reactant | trans-4-phenylcyclohexylamine | C1(=CC=CC=C1)[C@@H]1CC[C@H](CC1)N | C12H17N
reactant | 4-chlorobenzoylchloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | trans-N-(4-chlorobenzoyl)-4-phenylcyclohexylamine | ClC1=CC=C(C(=O)N[C@@H]2CC[C@H](CC2)C2=CC=CC=C2)C=C1 | C19H20ClNO
